US04560692
(c) 1-[2-(4-chlorophenyl)-4-quinolinyl]-4-piperidinecarboxylic acid
A mixture of 1.5 g (3.8 mmol) of 1-[2-(4-chlorophenyl)-4-quinolinyl]-4-piperidinecarboxylic acid ethyl ester, 2.7 ml of 3N aqueous sodium hydroxide, and 50 ml of ethanol was heated on a steam bath for 0.5 hr. It was then cooled, acidified with acetic acid, and diluted with water to give 1.4 g of product, mp 245°-247°.

reactant | 1-[2-(4-chlorophenyl)-4-quinolinyl]-4-piperidinecarboxylic acid ethyl ester | 3.8 mmol, 1.5 g | C(C)OC(=O)C1CCN(CC1)C1=CC(=NC2=CC=CC=C12)C1=CC=C(C=C1)Cl | C23H23ClN2O2
reactant | sodium hydroxide | 3N, 2.7 ml | [OH-].[Na+]
reactant | ethanol | 50 ml | C(C)O | C2H6O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 1-[2-(4-chlorophenyl)-4-quinolinyl]-4-piperidinecarboxylic acid | 1.4 g | ClC1=CC=C(C=C1)C1=NC2=CC=CC=C2C(=C1)N1CCC(CC1)C(=O)O | C21H19ClN2O2
